US05965614
Synthesis of N-(3,5-dichlorophenyl)alanine Ethyl Ester
Following General Procedure A above and using 3,5-dichloroaniline (Aldrich) and ethyl pyruvate (Aldrich), the title compound was prepared.

reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | N-(3,5-dichlorophenyl)alanine Ethyl Ester | C(C)OC([C@@H](NC1=CC(=CC(=C1)Cl)Cl)C)=O | C11H13Cl2NO2
